US05958916
[3,4-Dihydro-6-hydroxy-2-(3-methoxyphenyl)-1-naphthalenyl][4-[2-(1-piperidinyl)ethoxy]phenylmethanone]
To EtSH (1.86 g, 2.21 mL. 0.03 mol) in anhydrous ethyl ether (30 mL) at -70° C. under a dry nitrogen atmosphere in a 200 mL single neck RB flask was added slowly via syringe 1.6M n-BuLi (12.5 mL, 0.02 mol). After addition was complete, the ether was removed under vacuum and a solution of [3,4-dihydro-6-methoxy-2-(3-methoxyphenyl)-1-naphthalenyl][4-[2-(1-piperdinyl)ethoxy]phenylmethanone]hydrochloride (1.07 g, 0.002 mol) in anhydrous DMF (30 mL) was added. The reaction mixture was heated in a 105° C. oil bath for 3 hours. TLC analysis (SiO2, chloroform:methanol, 9:1) showed the starting material to be nearly gone. Numerous spots were present at higher, as well as lower Rf. The spots lower than starting material were attributed to the desired product and the corresponding monophenolic species. The reaction mixture was allowed to cool somewhat and most of the DMF was removed under reduced pressure. The residue was distributed between brine (300 mL) which contained 5 g ammonium chloride and ethyl acetate (100 mL). The aqueous phase was separated and extracted with 3 25 mL portions of ethyl acetate. The combined ethyl acetate extracts were washed with 4 10 mL portions of brine, dried over anhydrous magnesium sulfate, and concentrated to provide 1.31 g. of a brown foul-smelling oil. The oil was purified (in two portions) by radial chromatography over silica gel with an elution gradient consisting of 2.5% methanol in chloroform and changing gradually to 40% of methanol. The product eluted slightly slower than the starting material. Following combination and concentration of the appropriate fractions, 338 mg (35%) of the desired material was obtained. In order to improve the purity, the material was re-chromatographed, which provided 272 mg (28%) of essentially pure material.

reactant | EtSH | 0.03 mol, 2.21 mL, 1.86 g | CCS | C2H6S
reactant | n-BuLi | 0.02 mol, 1.6M, 12.5 mL | [Li]CCCC
reactant | [3,4-dihydro-6-methoxy-2-(3-methoxyphenyl)-1-naphthalenyl][4-[2-(1-piperdinyl)ethoxy]phenylmethanone]hydrochloride | 0.002 mol, 1.07 g | Cl.COC=1C=C2CCC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=CC(=CC=C1)OC
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | [3,4-Dihydro-6-hydroxy-2-(3-methoxyphenyl)-1-naphthalenyl][4-[2-(1-piperidinyl)ethoxy]phenylmethanone] | OC=1C=C2CCC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=CC(=CC=C1)OC | C31H33NO4
